US04537964
Preparation of Cis-(±)-2-benzyloxycarbonylaminocyclohexanecarboxylic acid, 1,3-cyclolactone
A solution was prepared by dissolving 18.6 g. of cis-(±)-perhydrophthalic acid, 2,4-cyclolactone in 235 ml. of THF. 12.1 g. of triethyl amine were added thereto. Next, a solution of 31.6 g. of diphenylphosphoryl azide in 50 ml. of THF was added in dropwise fashion at room temperature. The reaction mixture was warmed at about 30° C. for 20 min. and then at reflux temperature for about 3 hrs. The reaction mixture was then cooled to room temperature and stirred at that temperature overnight. 12.4 ml. of benzyl alcohol were added. This reaction mixture was heated to reflux for three hours and was then poured into water. The aqueous mixture was extracted with methylene dichloride. (The pH of the aqueous layer was about 7). The organic extract was dried, and the volatile constituents removed to leave a colorless oil weighing 50.6 g. The residual oil was dissolved in ether, and the ethereal solution chromatographed over silica. Initial fractions were shown to be unreacted benzyl alcohol. The next material to be eluted was cis-(±)-2-benzyloxycarbonylaminocyclohexanecarboxylic acid, 1,3-cyclolactone. 9.5 g. of a white solid product were obtained.

reactant | cis-(±)-perhydrophthalic acid | C([C@H]1[C@@H](C(=O)O)CCCC1)(=O)O | C8H12O4
reactant | diphenylphosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | Cis-(±)-2-benzyloxycarbonylaminocyclohexanecarboxylic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](CCCC1)C(=O)O | C15H19NO4
